US04082892
The procedure described in Example 1 is repeated in all essential details with the exception that 2-amino-2-ethyl-1,3-propanediol and acetic acid are the initial reactants in a 1:1 molar ratio. These compounds are combined using the method of Purcell, U.S. Pat. No. 3,336,145 to form 2-methyl-4-ethyl-4-hydroxymethyl-2-oxazoline.

reactant | 2-amino-2-ethyl-1,3-propanediol | NC(CO)(CO)CC | C5H13NO2
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 2-methyl-4-ethyl-4-hydroxymethyl-2-oxazoline | CC=1OCC(N1)(CO)CC | C7H13NO2
